US07521446B2
cis-4-(Methoxymethyl)cyclohexyl amine
Sodium hydride (72 mg, 1.78 mmol, 60% by weight suspended in mineral oil) was washed three times with 10 mL portions of hexanes, and suspended in dry THF (12 mL). The suspension was cooled to 0° C. To this suspension, cis-(tert-butoxy)-N-[4-(hydroxymethyl)cyclohexyl]carboxamide (0.273 g, 1.20 mmol) and 15-crown-5 (0.250 mL, 1.25 mmol) were added. The reaction mixture was then stirred at 0° C. for about 30 min. Methyl iodide was then added dropwise (75 μL, 1.20 mmol). Since the reaction was not complete after overnight stirring at room temperature, the mixture was cooled to 0° C. and reacted with 100 mg of sodium hydride and 0.250 mL of 15-crown-5. After about 2 hours at room temperature, the reaction was complete. The reaction was quenched by the slow addition of water and the crude product was extracted with ethyl acetate. Purification was effected by column chromatography on silica gel using 20% ethyl acetate in hexanes as the eluent. ES-MS (m/z) 244. cis-(Tert-butoxy)-N-[4-(methoxymethyl) cyclohexyl]carboxamide was dissolved in ethanol (5 mL) and the solution was treated with 1 mL of acetyl chloride at room temperature. The reaction mixture was stirred at room temperature overnight. The solvent was removed under reduced pressure and the resulting solid was used without further purification. (79% yield) ES-MS (m/z) 144.

reactant | Sodium hydride | 1.78 mmol, 72 mg | [H-].[Na+]
reactant | cis-(tert-butoxy)-N-[4-(hydroxymethyl)cyclohexyl]carboxamide | 1.20 mmol, 0.273 g | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@@H](CC1)CO | C12H23NO3
reactant | 15-crown-5 | 1.25 mmol, 0.250 mL | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | Methyl iodide | CI | CH3I
reactant | sodium hydride | 100 mg | [H-].[Na+]
reactant | 15-crown-5 | 0.250 mL | C1COCCOCCOCCOCCO1 | C10H20O5
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | cis-4-(Methoxymethyl)cyclohexyl amine | 79% yield | COC[C@H]1CC[C@H](CC1)N | C8H17NO
